US03987186
2-Carboxy-4-oxo-6,6,12-trimethyl-8-sulfo-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran by method B
A solution of 17 gm (0.07 mol) of 2,6,6-trimethyl3-hydroxy-6H-dibenzo-[b,d]-pyran and 14.2 gm (0.1 mol) of dimethyl acetylene-dicarboxylate in 40 ml of dioxane was admixed with a 40% solution of benzyl trimethylammonium hydroxide in water. The mixed solution was heated at 80° C for 30 minutes, cooled, admixed with 50 ml of 5 N sodium hydroxide and again heated for 1 hour at 80° C. Then, the reaction mixture was cooled, acidified with concentrated hydrochloric acid and extracted with ether. The ether extract was dried and evaporated, and the oily residue thus obtained was added slowly at room temperature to 150 ml of concentrated sulfuric acid. After standing for 1 day at room temperature, the solution was poured into ice water, and the precipitated solid substance was filtered off and heated for 3 hours in a mixture of 25 ml of acetic acid and 10 ml of concentrated hydrochloric acid. Subsequently, the mixture was evaporated to dryness, and the residue was recrystallized from methanol, yielding the compound named in the heading in the form of reddish crystals, m.p. 264°-266° C (hemihydrate).

reactant | 2,6,6-trimethyl3-hydroxy-6H-dibenzo-[b,d]-pyran | 0.07 mol, 17 gm | CC1=CC2=C(OC(C3=C2C=CC=C3)(C)C)C=C1O | C16H16O2
reactant | dimethyl acetylene-dicarboxylate | 0.1 mol, 14.2 gm | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | benzyl trimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | sodium hydroxide | 5 N, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-Carboxy-4-oxo-6,6,12-trimethyl-8-sulfo-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran | C(=O)(O)C=1OC2=C(C(C1)=O)C1=C(C=C2C)C2=C(C(O1)(C)C)C=C(C=C2)S(=O)(=O)O | C20H16O8S
